US07018988B2
Intermediate 9: (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid
A solution was made containing (2S)-1-(tert-butoxycarbonyl)-4-oxo-2-pyrrolidinecarboxylic acid (5.0 g, 22 mmol) and O-allylhydroxylamine hydrochloride monohydrate (7.2 g, 65.5 mmol) in a 1:1 mixture of pyridine and ethanol (100 ml). The reaction was heated to reflux for 2.5 h before cooling and removal of solvent. The residue was dissolved in ethyl acetate and washed rapidly with 1.3N HCl (40 ml). The acidic layer was then extracted with ethyl acetate (3×20 ml) and the combined organic layers washed with brine before drying over magnesium sulfate, filtering and re-moval of solvent in vacuo. The desired product (5.9 g, 94%) was isolated as a pale yellow oil.

reactant | (2S)-1-(tert-butoxycarbonyl)-4-oxo-2-pyrrolidinecarboxylic acid | 22 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=O)C(=O)O | C10H15NO5
reactant | O-allylhydroxylamine hydrochloride monohydrate | 65.5 mmol, 7.2 g | O.Cl.C(C=C)ON
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | 5.9 g, 94% | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
